simulator lang=spectre
global 0

ahdl_include "../submission/differential_deadband.va"

Vp (sigin_p 0) vsource type=pwl wave=[0 0.2 10n 0.2 10.1n 0.45 20n 0.45 20.1n 0.7 30n 0.7 30.1n 0.53 45n 0.53]
Vn (sigin_n 0) vsource type=pwl wave=[0 0.7 10n 0.7 10.1n 0.45 20n 0.45 20.1n 0.2 30n 0.2 30.1n 0.47 45n 0.47]
XDUT (sigin_p sigin_n sigout) differential_deadband dead_low=-0.2 dead_high=0.2 gain=1 leak=0.05

tran tran stop=40n maxstep=25p
save sigin_n sigin_p sigout
